US04880775
Reaction of 2,5-dimethyl-4-(1,1-dimethylethyl)-phenol (20.2 g, GLC purity 88%, 0.1 mol, which may be prepared as described by W. Weinrich, Ind. Eng. Chem. (1943) 35, 264-272), 40% formaldehyde solution (80 mL, 1.07 mol), p-dioxane (170 mL) and sulfuric acid (10 mL) according to the procedure described in Example 2, provided after distillation 13.05 g (59% yield, GLC purity 97%) of 5,8-dimethyl-6-(1,1-dimethylethyl)-4H-1,3-benzodioxin, bp 139° C., 3 mm; 1H-NMR (CDCl3)δ 1.40 (9H, s), 2.21 (6H, s), 4.79 (2H, s), 5.14 (2H, s); 7.01 (1H, s); IR (film)νmax 2940, 1580, 1475 cm-1 ; MS m/e 220, 205, 190, 185, 147; UVλmax (ethanol) 225 nm (ε=4270), 281 nm (ε=1490).

reactant | 2,5-dimethyl-4-(1,1-dimethylethyl)-phenol | 0.1 mol, 20.2 g | CC1=C(C=C(C(=C1)C(C)(C)C)C)O | C12H18O
reactant | formaldehyde | 1.07 mol, 80 mL | C=O | CH2O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | p-dioxane | 170 mL | O1CCOCC1 | C4H8O2
product | 5,8-dimethyl-6-(1,1-dimethylethyl)-4H-1,3-benzodioxin | 13.05 g, 59% yield | CC1=C(C=C(C=2OCOCC21)C)C(C)(C)C | C14H20O2
